US07049310B2
a) 7-Chloro-1-methyl-1H-indole
According to the procedure of Preparation 13 (a), except substituting 7-chloroindole for the 3-methylindole, the title compound (2.2 g, 100%) was obtained as a white solid: MS (ES) m/e 166.2 (M+H)+.

reactant | 7-chloroindole | ClC=1C=CC=C2C=CNC12 | C8H6ClN
reactant | 3-methylindole | CC1=CNC2=CC=CC=C12 | C9H9N
product | 7-Chloro-1-methyl-1H-indole | 2.2 g, 100% | ClC=1C=CC=C2C=CN(C12)C | C9H8ClN
